US04846882
To 300 ml of 1,2-dichloroethane that had been cooled to 0° C. was added 31.3 g (0.197 mole) of 2-chloro-4-fluorobenzaldehyde, prepared by the method of Example 2, Steps A and B. Subsequently, 19.96 g (0.197 mole) of potassium nitrate was added to the reaction mixture, and dropwise addition of 300 ml of concentrated sulfuric acid followed while maintaining the temperature between 0° C. and 5° C. The reaction was complete after 80 minutes, and 750 ml of methylene chloride was added to the reaction mixture. The phases were separated, and the sulfuric acid phase was extracted three times with 150 ml of methylene chloride. The extracts were combined with the organic phase before being washed three times with 450 ml of water. The extracts were dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure, leaving an amber oil weighing 32.5 g as a residue. This oil was passed through a column of silica gel, eluting with ethyl acetate/heptane (1/4). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure, leaving 26.0 g of 2-chloro-4-fluoro-5-nitrobenzaldehyde as an amber oil.

reactant | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
reactant | 2-chloro-4-fluorobenzaldehyde | 0.197 mole, 31.3 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | potassium nitrate | 0.197 mole, 19.96 g | [N+](=O)([O-])[O-].[K+]
reactant | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-fluoro-5-nitrobenzaldehyde | 26.0 g | ClC1=C(C=O)C=C(C(=C1)F)[N+](=O)[O-] | C7H3ClFNO3
